US04861778
Preparation of 2-Methyl-4-Methoxyphthalazine-1(2H)-One (Compound No. 3)
2,3-Dihydrophthalazine-1,4-dione (0.02 mol) was added to a suspension of sodium hydride (0.04 mol; 50% solution in mineral oil) in anhydrous dimethylformamide (100 ml). To this was slowly added an excess amount of methyl iodide (0.05 mol). The mixture was stirred under reflux for 24 hours. The solvent was evaporated and the product purified by recrystallization from benzene. The purified product was obtained in a yield of 78 percent.

reactant | 2,3-Dihydrophthalazine-1,4-dione | 0.02 mol | C1(NNC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | sodium hydride | 0.04 mol | [H-].[Na+]
reactant | methyl iodide | 0.05 mol | CI | CH3I
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-4-Methoxyphthalazine-1(2H)-One | yield of 78 percent | CN1C(C2=CC=CC=C2C(=N1)OC)=O | C10H10N2O2
